US09306174B2
The resulting 9-(4-bromophenyl)-9′-phenyl-9H,9′H-[3,3′]bicarbazolyl (17.00 g), 9-phenyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxabororan-2-yl)-9H-carbazole (12.25 g), toluene (160 ml), ethanol (40 ml), and a 2 M potassium carbonate aqueous solution (23 ml) were added to a nitrogen-substituted reaction vessel, and aerated with nitrogen gas for 30 minutes under ultrasonic waves. After adding tetrakis(triphenylphosphine)palladium (1.74 g), the mixture was heated, and stirred at 72° C. for 12.5 hours. The mixture was allowed to cool to room temperature, and extraction was performed by adding toluene (100 ml) and water (150 ml) thereto. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure to obtain a black crude product. The crude product was purified by column chromatography (carrier: silica gel; eluent: hexane/toluene) to obtain a pale yellowish white powder of 9′-phenyl-9-[4-(9-phenyl-9H-carbazol-3-yl)-phenyl]-9H,9′H-[3,3′]bicarbazolyl (10.44 g; yield 48%).

reactant | 9-(4-bromophenyl)-9′-phenyl-9H,9′H-[3,3′]bicarbazolyl | 17.00 g | BrC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C36H23BrN2
reactant | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 2 M, 23 ml | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 1.74 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 9′-phenyl-9-[4-(9-phenyl-9H-carbazol-3-yl)-phenyl]-9H,9′H-[3,3′]bicarbazolyl | 10.44 g, yield 48% | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=C(C=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C54H35N3
